US04260815
A portion of the (-)-2-amino-1-butanol D-(-)-mandelate wet cake (155 grams "as is" -90.3% pure; 0.58 mole) from resolution A is dissolved in water (125 mls) at 50°-55° C. and the resulting solution is distilled under vacuum to remove 48.5 mls of methanol and water. The concentrated solution is treated with 37% hydrochloric acid (60 mls) and the acidified solution is cooled to -5° C. over about 5 hours to crystallize D-(-)-mandelic acid from the solution. The crystals are isolated by filtration, washed twice with ice cold (0°-5° C.) water (20 mls), twice with hexane (20 mls), and dried at 60° C. to obtain 64.1 grams of D-(-)-mandelic acid (72.6% of theoretical; m.p. 131°-133° C.; [α]D25 =-154.1° (C=2, H2O)).

reactant | (-)-2-amino-1-butanol D-(-)-mandelate | C([C@H](O)C1=CC=CC=C1)(=O)OCC(CC)N | C12H17NO3
solvent | water | 125 mls | O | H2O
product | D-(-)-mandelic acid | 64.1 grams, 72.6% | C([C@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
